US08685969B2
3. Ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxylate
To a mixture of benzyl 3-(2-amino-1-(6-bromo-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate (2.320 g, 4.85 mmol) and 4 angstrom molecular sieves (powder, activated, <5 mesh, 1.80 g) in tetrahydrofuran (100 mL) at room temperature was added ethyl 2-oxoacetate in toluene (1.923 mL, 9.70 mmol), followed by hydrogen chloride in 1,4-dioxane (1.334 mL, 5.33 mmol). The mixture was stirred at room temperature for 24 h. The solid phase was removed by suction filtration through CELITE®, and the filtrate was concentrated under vacuum. The residue was diluted with water (60 mL), basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×80 mL). The combined extract was washed with brine (60 mL) and dried over anhydrous MgSO4. The solvent was removed under vacuum. To the residue was added p-xylene (200 mL) and 10% Pd/C (1.5 g), and the mixture was heated under atmosphere at 125° C. for 16 hr. The solid phase was removed by suction filtration through CELITE®. The filtrate was concentrated under vacuum, and the residue was purified by ISCO (220 g silica gel, solid loading, 20-50% ethyl acetate/hexane) to provide the desired product (0.977 g, 36% yield) as a beige solid.

reactant | benzyl 3-(2-amino-1-(6-bromo-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 4.85 mmol, 2.320 g | NCC(C1=CNC2=CC(=CC=C12)Br)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C25H24BrN3O2
reactant | ethyl 2-oxoacetate | O=CC(=O)OCC | C4H6O3
reactant | toluene | 9.70 mmol, 1.923 mL | C1(=CC=CC=C1)C | C7H8
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 5.33 mmol, 1.334 mL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | Ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-bromo-9H-pyrido[3,4-b]indole-1-carboxylate | 0.977 g, 36% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)Br)C(=O)OCC)C | C29H24BrN3O4
